US07696223B2
c) [(1-Benzyl-4-hydroxy-2,3-dimethyl-1H-pyrrolo[2,3-c]pyridine-5-carbonyl)-amino]-acetic acid
A mixture of 1-benzyl-4-(2,2-dimethyl-propionyloxy)-2,3-dimethyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester (70 mg, 0.171 mmol), NaOMe in MeOH (1.02 mL, 0.51 mmol, 0.5 M), and methanol (3 mL) was stirred overnight at 60° C.; then the reaction was cooled to room temperature and acidified to pH=6 with 2 M HCl aqueous solution. The solvents were then removed, and the residue was oil pumped to dryness. The left residue was then refluxed with glycine (257 mg, 3.42 mmol), NaOMe in MeOH (5.13 mL, 2.57 mmol, 0.5 M) overnight; the solvent was removed, the residue was dissolved in water and then extracted once with MTBE, the aqueous layer was acidified with HCl (2 M) aqueous solution to pH=1-2; the precipitated solids were collected by filtration, washed briefly with water and freeze-dried to give powder, the desired title compound (53 mg, 88%); ESI MS (m/z): 354 (M+H+).

reactant | 1-benzyl-4-(2,2-dimethyl-propionyloxy)-2,3-dimethyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 0.171 mmol, 70 mg | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2C)C)CC2=CC=CC=C2)OC(C(C)(C)C)=O | C24H28N2O4
reactant | NaOMe | C[O-].[Na+]
reactant | HCl | 2 M | Cl | ClH
reactant | glycine | 3.42 mmol, 257 mg | NCC(=O)O | C2H5NO2
solvent | methanol | 3 mL | CO | CH4O
solvent | MeOH | 2.57 mmol, 0.5 M, 5.13 mL | CO | CH4O
solvent | MeOH | 0.51 mmol, 0.5 M, 1.02 mL | CO | CH4O
product | [(1-Benzyl-4-hydroxy-2,3-dimethyl-1H-pyrrolo[2,3-c]pyridine-5-carbonyl)-amino]-acetic acid | 53 mg, 88% | C(C1=CC=CC=C1)N1C(=C(C=2C1=CN=C(C2O)C(=O)NCC(=O)O)C)C | C19H19N3O4
